US07799814B2
Step III: tert-butyl [2-(5-tert-butyl-1,2,4-oxadiazol-3-yl)ethyl]carbamate
To a stirred suspension of tert-butyl ((3Z)-3-amino-3-{[(2,2-dimethylpropanoyl)oxy]imino}propyl)carbamate, obtained in step II as describe above (51 g; 177 mmol; 1 eq.), in dry THF (1000 ml) under N2, is added dropwise at RT a solution of tetrabutylammonium fluoride solution (177.5 ml; 1 M; 177.5 mmol; 1 eq.) in dry THF (400 ml). At the end of addition, the initial white suspension becomes a yellow solution. The reaction is followed by NMR. After 2 h the reaction is complete. The reaction mixture is poured into EtOAc (1 l) and is washed with water (3×700 ml) and brine (3×700 ml). The organic layer is dried over MgSO4, filtered off and evaporated, affording the title compound as a beige solid (46.6 g, 98%).

reactant | tert-butyl ((3Z)-3-amino-3-{[(2,2-dimethylpropanoyl)oxy]imino}propyl)carbamate | N\C(\CCNC(OC(C)(C)C)=O)=N/OC(C(C)(C)C)=O | C13H25N3O4
reactant | tetrabutylammonium fluoride | 177.5 mmol, 1 M, 177.5 ml, 1 eq. | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | EtOAc | 1 l | CCOC(=O)C | C4H8O2
solvent | THF | 1000 ml | C1CCOC1 | C4H8O
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | tert-butyl [2-(5-tert-butyl-1,2,4-oxadiazol-3-yl)ethyl]carbamate | 46.6 g, 98% | C(C)(C)(C)C1=NC(=NO1)CCNC(OC(C)(C)C)=O | C13H23N3O3
